US04636521
(iii) N-[[3-(2-Bromoethyl)-1H-indol-5-yl]methyl]methanesulphonamide
Phosphorus tribromide (0.03 ml) was added dropwise to a solution of N-[[3-(2-hydroxyethyl)-1H-indol-5-yl]methyl]methanesulphonamide (0.18 g) in dry THF (20 ml) stirred in an ice bath. There was an immediate reddish colour produced. The solution was stirred for 2 h and then at room temperature for a further 3.5 h, then again chilled in ice, diluted with water (40 ml) and extracted with ether (2×50 ml, 3×25 ml) combined extracts were washed with brine (3×20 ml) and dried (Na2SO4). Removal of the solvent by rotary evaporation at 35°-40° afforded the title compound as a viscous pink oil (0.22 g).

reactant | Phosphorus tribromide | 0.03 ml | P(Br)(Br)Br | Br3P
reactant | N-[[3-(2-hydroxyethyl)-1H-indol-5-yl]methyl]methanesulphonamide | 0.18 g | OCCC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C | C12H16N2O3S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 40 ml | O | H2O
product | N-[[3-(2-Bromoethyl)-1H-indol-5-yl]methyl]methanesulphonamide | 0.22 g | BrCCC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C | C12H15BrN2O2S
